US08314108B2
5-(5-(2-Methoxy-6-(4-methoxybenzyloxy)phenyl)-1H-pyrazol-3-ylamino)pyrazine-2-carbonitrile
In a 20 L container are combined ethanol (11.28 L) and acetic acid (318 mL, 5.545 mol). The reaction is vented to a bleach scrubber with a nitrogen purge. (E)-5-(3-(2-Methoxy-6-(4-methoxybenzyloxy)phenyl)-1-(methylthio)-3-oxoprop-1-enylamino)pyrazine-2-carbonitrile (940 g, 1.931 mol) and the ethanol/acetic acid solution are added to a 22 L reaction flask. To the resulting brown slurry is added hydrazine monohydrate (197 g, 3.935 mol), resulting in a slight exotherm. The resulting yellow slurry is slowly heated to 65-70° C. and monitored by HPLC. The duration of the reaction is less than one hour. The thick slurry is slowly cooled over 1-2 h to less than 30° C. The slurry is filtered and washed with cold ethanol. The material is vacuum dried at 40° C. affording (820 g, 99.1%) of the title compound. mp 215-117° C.; ES/MS m/z 429.2 [M+1]+.

reactant | ethanol | 11.28 L | C(C)O | C2H6O
reactant | acetic acid | 5.545 mol, 318 mL | C(C)(=O)O | C2H4O2
reactant | (E)-5-(3-(2-Methoxy-6-(4-methoxybenzyloxy)phenyl)-1-(methylthio)-3-oxoprop-1-enylamino)pyrazine-2-carbonitrile | 1.931 mol, 940 g | COC1=C(C(=CC=C1)OCC1=CC=C(C=C1)OC)C(/C=C(/SC)\NC=1N=CC(=NC1)C#N)=O | C24H22N4O4S
reactant | hydrazine monohydrate | 3.935 mol, 197 g | O.NN
solvent | ethanol acetic acid | C(C)O.C(C)(=O)O
product | 5-(5-(2-Methoxy-6-(4-methoxybenzyloxy)phenyl)-1H-pyrazol-3-ylamino)pyrazine-2-carbonitrile | 820 g, 99.1% | COC1=C(C(=CC=C1)OCC1=CC=C(C=C1)OC)C1=CC(=NN1)NC=1N=CC(=NC1)C#N | C23H20N6O3
